US08183380B2
1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-urea
1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-piperidin-4-yl-urea (0.05 g, 0.12 mmol), triethylamine (0.02 mL, 0.15 mmol) and methylvinylsulfone (0.016 g, 0.15 mmol) were dissolved in tetrahydrofuran (3 mL) and stirred at ambient temperature for 16 h. Ethyl acetate (10 mL) was added to the reaction mixture and everything subsequently washed with water. The organic phase was dried over sodium sulfate, filtered and the filtrate evaporated. The residue was subjected to column chromatography (basic silica gel, ethyl acetate) to yield the title compound (0.026 g, 41%) as an off-white solid; MS: m/e=508.8 (M+H+).

reactant | 1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-piperidin-4-yl-urea | 0.12 mmol, 0.05 g | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)NC1CCNCC1 | C24H27N5O
reactant | triethylamine | 0.15 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
reactant | methylvinylsulfone | 0.15 mmol, 0.016 g | CS(=O)(=O)C=C | C3H6O2S
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-urea | 0.026 g, 41% | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)NC1CCN(CC1)CCS(=O)(=O)C | C27H33N5O3S
